US04435326
17β-Ethylthio-9-fluoro-11β-hydroxy-17α-mercaptoandrosta-1,4-diene-3-one
A solution of 2.0 g of 17-ethylthio-9-fluoro-11β-hydroxyandrosta-1,4,16-triene-3-one in dry dichloromethane (120 ml) was cooled and stirred in a bath at about -40° C. and a slow stream of hydrogen sulfide gas was passed into the solution while boron trifluoride etherate (1.2 ml) was added. After about 3.5 to 4.0 hours, the mixture was diluted with chloroform, warmed to room temperature and washed successively with a dilute sodium bicarbonate solution and water. The solution was dried (anhydrous magnesium sulfate), evaporated and the solid residue crystallized from ethyl acetate to afford 1.4 g of the title compound, melting point 239°-242° C.

reactant | 17-ethylthio-9-fluoro-11β-hydroxyandrosta-1,4,16-triene-3-one | 2.0 g | C(C)SC=1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@]1([C@H](C2)O)F)=O | C21H27FO2S
reactant | hydrogen sulfide | S | H2S
reactant | boron trifluoride etherate | 1.2 ml | B(F)(F)F.CCOCC
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 17β-Ethylthio-9-fluoro-11β-hydroxy-17α-mercaptoandrosta-1,4-diene-3-one | 1.4 g | CCS[C@@]1([C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@]1([C@H](C2)O)F)=O)S | C21H29FO2S2
